US04163057
A mixture of 48.5 g. (0.265 mole) ethyl-3-pyrrolidone crotonate 48.2 g. (0.291 mole) 1-nitro-3-phenylpropane and 208 ml. (1.490 mole) triethylamine in 500 ml. chloroform is cooled to 0° and treated by the dropwise addition of 44.6 g. (0.291 mole) phosphorous oxychloride in 105 ml. chloroform. The addition takes approximately three hours and the temperature is maintained at about 0°±5°. After the addition the mixture is stirred at room temperature over night. The resulting mixture is then washed once with cold water, three times with 6 N hydrochloric acid, once with 1 N sodium hydroxide and once with saturated sodium chloride. The organic layer is dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo. The residue is distilled and the fraction collected at about 145°-150°/0.45 mm to give 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester. Identified by NMR and IR.

reactant | ethyl-3-pyrrolidone crotonate | 0.265 mole, 48.2 g | C(\C=C\C)(=O)O.C(C)N1CC(CC1)=O
reactant | 1-nitro-3-phenylpropane | 0.291 mole | [N+](=O)([O-])CCCC1=CC=CC=C1 | C9H11NO2
reactant | triethylamine | 1.490 mole | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 0.291 mole | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-phenethyl-5-methyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)CCC1=CC=CC=C1 | C15H17NO3
